US06660753B2
To the solution of Methyl-3-bromo-5-iodobenzoate (2.00 g, 5.87 mmol) in toluene (50 ml) added Pyridine-3-boronic acid-1,3-propanediol ester (1.24 g, 7.63 mmol), potassium carbonate (8.11 g, 58.7 mmol) and tetrakis(triphenylphoshine)palladium (0) (0.34, 0.29 mmol), sequentially. The resulting brownish yellow reaction mixture was heated at 80° C. under argon for 10 h. The reaction mixture was cooled to room temperature, filtered through a pad of celite and concentrated in-vacuo. The residue was purified on silica gel using 3% methanol in dichloromethane to isolate Methyl-3-bromo-5-(3-pyridyl)benzoate (1.16 g, 67%) as a white solid.

reactant | Methyl-3-bromo-5-iodobenzoate | 5.87 mmol, 2.00 g | COC(C1=CC(=CC(=C1)I)Br)=O | C8H6BrIO2
reactant | Pyridine-3-boronic acid-1,3-propanediol ester | 7.63 mmol, 1.24 g | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | potassium carbonate | 58.7 mmol, 8.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl-3-bromo-5-(3-pyridyl)benzoate | 1.16 g, 67% | COC(C1=CC(=CC(=C1)C=1C=NC=CC1)Br)=O | C13H10BrNO2
